US07553973B2
Step 2: Ethyl 5-mercapto-1,3,4-thiadiazole-2-carboxylate
Ethyl(methylthio)(thioxo)acetate (20.0 g, 122 mmol) and potassium hydrazinecarbodithioate (R. S. Drago et al., JACS (1983) 105, 2287) (17.8 g, 122 mmol) were reflux overnight in ethanol (500 ml). The solution was concentrated and EtOAc was added. The organic phase was washed with 1M HCl, brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue purified on silica gel (hexanes-acetone, 80:20) to give the title compound. 1H NMR (400 MHz, acetone-d6): 4.43 (q, 2H), 1.38 (t, 3H).

reactant | Ethyl(methylthio)(thioxo)acetate | 122 mmol, 20.0 g | C(C)OC(C(=S)SC)=O | C5H8O2S2
reactant | potassium hydrazinecarbodithioate | 122 mmol, 17.8 g | N(N)C(=S)[S-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Ethyl 5-mercapto-1,3,4-thiadiazole-2-carboxylate | SC1=NN=C(S1)C(=O)OCC | C5H6N2O2S2
